US05593993
N-[2-(2-chlorophenyl)ethyl]-N'-(2-benzimidazolyl)thiourea
A solution of 1-[(2-benzimidazolyl)thiocarbamoyl]imidazole (1.22 g, 5.0 mmol) and 2-(2-chlorophenyl)ethylamine (0.81 g, 5.0 mmol) in N,N- dimethylformamide (20 mL) was stirred at 90° C. for 2 h. The reaction was cooled to room temperature, poured into ethyl acetate, washed with water, 1N aqueous HCl, water, saturated sodium bicarbonate, and brine. The organic layer was concentrated and the resultant solid was crystallized from EtOAc to provide 0.67 g (40%) of the titled product as a white solid:

reactant | 1-[(2-benzimidazolyl)thiocarbamoyl]imidazole | 5.0 mmol, 1.22 g | N1=C(NC2=C1C=CC=C2)NC(=S)N2C=NC=C2 | C11H9N5S
reactant | 2-(2-chlorophenyl)ethylamine | 5.0 mmol, 0.81 g | ClC1=C(C=CC=C1)CCN | C8H10ClN
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N- dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | N-[2-(2-chlorophenyl)ethyl]-N'-(2-benzimidazolyl)thiourea | 0.67 g, 40% | ClC1=C(C=CC=C1)CCNC(=S)NC=1NC2=C(N1)C=CC=C2 | C16H15ClN4S
